US06194599B1
Preparation of 2,2′-dicyanobiphenyl by nickel catalyzed reaction of 2-cyanophenylzinc bromide with 2-chlorobenzonitrile: Activated zinc was prepared and reacted with 2-bromobenzonitrile to provide 2-cyanophenylzinc bromide, as follows: A mixture of 0.208 g (30.0 mmol) lithium wire and 3.91 g (30.5 mmol) naphthalene in 15 mL of THF was stirred at room temperature for 4 h. To the resultant dark green solution was then added a solution of 2.04 g (15.0 mmol) zinc chloride in 15 mL of THF. After stirring the mixture for 10 minutes, 0.91 g (5.0 mmol) 2-bromobenzonitrile was added and the reaction mixture refluxed for 8 h. The resultant mixture was then filtered through a small pad of celite under nitrogen to provide a clear, dark solution of 2-cyanophenylzinc bromide.

reactant | lithium | 30.0 mmol, 0.208 g | [Li] | Li
reactant | naphthalene | 30.5 mmol, 3.91 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | zinc chloride | 15.0 mmol, 2.04 g | [Cl-].[Zn+2].[Cl-]
reactant | 2-bromobenzonitrile | 5.0 mmol, 0.91 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-cyanophenylzinc bromide | [Br-].C(#N)C1=C(C=CC=C1)[Zn+] | InChI=1S/C7H4N.BrH.Zn/c8-6-7-4-2-1-3-5-7;;/h1-4H;1H;/q;;+1/p-1
